US06686353B1
Preparation of 1-(3-Hydroxy-3,3-diphenylpropyl)-4-(4-chlorobenzyl)homopiperazine (Compound No. 107)
A solution of 54 mg of methyl 3-[4-(4-chlorobenzyl) homopiperazinyl]propionate in 10 mL of ether was mixed with under nitrogen, 4 mL of 1 M phenyl magnesium bromide. The mixture was stirred at room temperature for 30 minutes, mixed with aqueous saturated ammonium chloride and the mixture was extracted with 50 mL of ethyl acetate. The extract was washed with 50 mL of saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, filtered, concentrated, and purified by column chromatography (silica gel, ethyl acetate/methanol 9:1) to give 65 mg of the titled compound. This was treated with a hydrogen chloride solution in ether and the solvent was removed under reduced pressure and the residue was dried to give the hydrochloride salt of the titled compound.

reactant | methyl 3-[4-(4-chlorobenzyl) homopiperazinyl]propionate | 54 mg | ClC1=CC=C(CN2CCN(CCC2)CCC(=O)OC)C=C1 | C16H23ClN2O2
reactant | phenyl magnesium bromide | 1 M, 4 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 mL | CCOCC | C4H10O
product | 1-(3-Hydroxy-3,3-diphenylpropyl)-4-(4-chlorobenzyl)homopiperazine | 65 mg | OC(CCN1CCN(CCC1)CC1=CC=C(C=C1)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31ClN2O
